US06790272B1
19.00 g of itaconic acid
72.20 g of a 25% strength by weight solution of N-(methacryloxyethyl) imidazolidin-2-one in methyl methacrylate.

reactant | N-(methacryloxyethyl) imidazolidin-2-one | C(C(=C)C)(=O)OCCN1C(NCC1)=O | C9H14N2O3
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
product | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
